US06498251B1
Methanol (100 ml) and sodium hydroxide solution (1 N, 22 mmol) were added to 2-t-butoxycarbonyl-9-methoxycarbonylmethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole (7.42 g, 21.5 mmol) and stirred at room temperature for 2 hours, the solvent was removed by evaporation under a reduced pressure, the thus obtained oily material was dissolved in ethyl acetate (100 ml) and then the ethyl acetate layer was washed with water, dried with anhydrous sodium sulfate and concentrated under a reduced pressure. The resulting residue was precipitated by adding diisopropyl ether (30 ml), thereby obtaining 5.29 g (16.0 mmol, 74.4% in yield) of 2-t-butoxycarbonyl-9-carboxymethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole.

reactant | sodium hydroxide | 22 mmol, 1 N | [OH-].[Na+]
reactant | 2-t-butoxycarbonyl-9-methoxycarbonylmethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 21.5 mmol, 7.42 g | C(C)(C)(C)OC(=O)N1CC=2N(C3=CC=CC=C3C2CC1)CC(=O)OC | C19H24N2O4
solvent | Methanol | 100 ml | CO | CH4O
product | 2-t-butoxycarbonyl-9-carboxymethyl-2,3,4,9-tetrahydro-1H-pyrido[3,4-b]indole | 16.0 mmol, 5.29 g, 74.4% | C(C)(C)(C)OC(=O)N1CC=2N(C3=CC=CC=C3C2CC1)CC(=O)O | C18H22N2O4
